US07414116B2
[2-(1-Azido-ethoxy)-ethoxy]-acetic acid ethyl ester
To a solution of 2-(1-azido-ethoxy)-ethanol (0.15 g, 1.14 mmol) in dry tetrahydrofuran (THF) (5 ml) was added NaH (60% dispersion, 0.08 g, 2 mmol) at 0° C. After 15 minutes, ethyl-2-bromoacetate (0.222 ml, 2 mmol) was added. The reaction was maintained at this temperature for 15 minutes and then warmed up to room temperature. The reaction was quenched by addition of saturated aqueous NaHCO3 (5 ml) after 1 hr. After a further period of 5 min, the mixture was partitioned between DCM (50 ml) and saturated aqueous NaHCO3 (50 ml). The aqueous layer was further extracted with DCM (50 ml). All the DCM extracts were combined, dried over MgSO4 and evaporated under reduced pressure. The title compound was obtained as an oil (0.162 g, 65.5%).

reactant | 2-(1-azido-ethoxy)-ethanol | 1.14 mmol, 0.15 g | N(=[N+]=[N-])C(C)OCCO | C4H9N3O2
reactant | NaH | 2 mmol, 0.08 g | [H-].[Na+]
reactant | ethyl-2-bromoacetate | 2 mmol, 0.222 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [2-(1-Azido-ethoxy)-ethoxy]-acetic acid ethyl ester | C(C)OC(COCCOC(C)N=[N+]=[N-])=O | C8H15N3O4
